US09079866B2
N-tert-Butyl-4′-(3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 444 using N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide and 7-bromo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine. MS (ESI): mass calcd. for C23H24FN3O3S, 441.15; m/z found, 442.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.15-8.12 (m, 1H), 7.80 (d, J=0.9, 1H), 7.72-7.69 (m, 1H), 7.68-7.62 (m, 1H), 7.60-7.54 (m, 2H), 7.39-7.33 (m, 3H), 4.42-4.33 (m, 2H), 3.75-3.69 (m, 2H), 1.09 (s, 9H).

reactant | N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C22H29BFNO4S
reactant | 7-bromo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | BrC1=CC=2OCCNC2N=C1 | C7H7BrN2O
product | N-tert-Butyl-4′-(3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-3′-fluorobiphenyl-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C1=CC=2OCCNC2N=C1)F | C23H24FN3O3S
